US04891363
dl-[trans-3-(N-Heptadecylcarbamoyloxy)tetrahydropyran-2-yl]methyl 6-[5-(2-hydroxyethyl)-4-methylthiazolio]hexyl phosphate (inner salt)
0.88 g of dl-[trans-3-(N-heptadecylcarbamoyloxy)tetrahydropyran-2-yl]methyl 6-bromohexyl phosphate (prepared as described in the first step of Example 8f) was dissolved in 2.0 ml of toluene. The resulting solution was mixed with 2.88 ml of 5-(2-hydroxyethyl)-4-methylthiazole. The mixture was then heated on an oil bath at 80° C. for 90 hours, whilst stirring. It was then worked up as described in Example 1f, to give 0.460 g of the title compound as a powder.

reactant | [trans-3-(N-heptadecylcarbamoyloxy)tetrahydropyran-2-yl]methyl 6-bromohexyl phosphate | P(=O)(OC[C@@H]1OCCC[C@H]1OC(NCCCCCCCCCCCCCCCCC)=O)(OCCCCCCBr)[O-]
reactant | 5-(2-hydroxyethyl)-4-methylthiazole | 2.88 ml | OCCC1=C(N=CS1)C | C6H9NOS
solvent | toluene | 2.0 ml | C1(=CC=CC=C1)C | C7H8
product | [trans-3-(N-Heptadecylcarbamoyloxy)tetrahydropyran-2-yl]methyl 6-[5-(2-hydroxyethyl)-4-methylthiazolio]hexyl phosphate | 0.460 g | P(=O)(OC[C@@H]1OCCC[C@H]1OC(NCCCCCCCCCCCCCCCCC)=O)(OCCCCCCC=1SC(=C([NH+]1)C)CCO)[O-] | C36H67N2O8PS
